US06645968B2
N-(3-pyridinyl)guanidine dihydrochloride
3-Aminopyridine (38.96 g, 413.96 mmol) and cyanamide (21.40 g, 509.2 mmol) in 12N hydrochloric acid (271 mL) were stirred at 140-150° C. for 4 hours. Concentration under reduced pressure provided a heavy syrup which was purified by recrystalization from 1:1 isopropanol:diethyl ether (500 mL) to provide 60.2 g of the desired product as a white solid.

reactant | 3-Aminopyridine | 413.96 mmol, 38.96 g | NC=1C=NC=CC1 | C5H6N2
reactant | cyanamide | 509.2 mmol, 21.40 g | N#CN | CH2N2
reactant | hydrochloric acid | 12N, 271 mL | Cl | ClH
product | N-(3-pyridinyl)guanidine dihydrochloride | 60.2 g | Cl.Cl.N1=CC(=CC=C1)NC(=N)N | InChI=1S/C6H8N4.2ClH/c7-6(8)10-5-2-1-3-9-4-5;;/h1-4H,(H4,7,8,10);2*1H
